US05523410
To N,N'-dimethylethylenediamine (7.93 g) in N,N-dimethylformamide (27 ml) was dropwise added methyl 2(S)-phenoxycarbonyloxy-3-phenylpropionate (9.0 g) in N,N-dimethylformamide (9 ml) under cooling at -5°-10° C. over 30 minutes. After the dropwise addition, the mixture was stirred at said temperature for 60 minutes and poured into a mixture of ethyl acetate and 20% aqueous sodium chloride for partition. The water layer was re-extracted with ethyl acetate, the organic layer was combined, and 5% hydrochloric acid was added thereto for partition. The water layer was washed with ethyl acetate, added with methylene chloride, and adjusted to pH 9.0 with an aqueous solution of 24% sodium hydroxide. The organic layer was separated, washed with 20% aqueous sodium chloride, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give 8.64 g of methyl 2(S)-[N-(2-methylaminoethyl)-N-methylaminocarbonyloxy]-3-phenylpropionate (yield 97.9%).

reactant | N,N'-dimethylethylenediamine | 7.93 g | CNCCNC | C4H12N2
reactant | methyl 2(S)-phenoxycarbonyloxy-3-phenylpropionate | 9.0 g | O(C1=CC=CC=C1)C(=O)O[C@H](C(=O)OC)CC1=CC=CC=C1 | C17H16O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 27 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | methyl 2(S)-[N-(2-methylaminoethyl)-N-methylaminocarbonyloxy]-3-phenylpropionate | 8.64 g, yield 97.9% | CNCCN(C)C(=O)O[C@H](C(=O)OC)CC1=CC=CC=C1 | C15H22N2O4
